US06162813
Step 1B 7-chloro-4-hydroxy-6-nitro-3-thiophen-2-yl-1H-quinolin-2-one
To a solution of 4-chloro-5-nitro-2-(2-thiophen-2-yl-acetylamino)-benzoic acid methyl ester (130 mg in 4.0 mL dry tetrahydrofuran) at 0° C. was added dropwise a solution of sodium bis(trimethylsilyl)amide (0.92 mL of a 1.0M solution in tetrahydrofuran) and the mixture warmed to room temperature. After 3 hours, the reaction was quenched by the addition of 6N hydrochloric acid. The slurry was stirred for 10 minutes then filtered and washed with ice cold acetonitrile. The residue was dried in vacuo to give the title compound (79 mg).

reactant | 4-chloro-5-nitro-2-(2-thiophen-2-yl-acetylamino)-benzoic acid methyl ester | 4.0 mL, 130 mg | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)NC(CC=1SC=CC1)=O)=O | C14H11ClN2O5S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-4-hydroxy-6-nitro-3-thiophen-2-yl-1H-quinolin-2-one | 79 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C=1SC=CC1)O)[N+](=O)[O-] | C13H7ClN2O4S
